US05262390
A 1N solution of boron tribromide in methylene chloride (18.0 mL, 0.018 mole) was diluted with 17 mL of methylene chloride and was then cooled to below -10° C. under a nitrogen atmosphere. A solution of 3-chloro-2-(2-fluoro-4-methoxyphenyl)-4,5,6,7-tetrahydroindazole in 25 mL of methylene chloride was added dropwise at a rate to maintain the temperature below -10° C. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature at which it stirred for sixteen hours. The mixture was then poured into ice-water, and the resulting mixture was stirred for 30 minutes. This mixture was filtered, and the filtrate was passed through a short column of silica gel. The organic phase was separated, dried with anhydrous sodium sulfate, and filtered. The solvent was evaporated from the filtrate under reduced pressure, leaving 0.60 g of 3-chloro-2-(2-fluoro-4-hydroxyphenyl)-4,5,6,7-tetrahydroindazole as a nearly white solid, m.p. 214°-216° C. The NMR and IR spectra were consistent with the proposed structure.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 3-chloro-2-(2-fluoro-4-methoxyphenyl)-4,5,6,7-tetrahydroindazole | ClC=1N(N=C2CCCCC12)C1=C(C=C(C=C1)OC)F | C14H14ClFN2O
solvent | methylene chloride | 17 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.018 mole, 18.0 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-2-(2-fluoro-4-hydroxyphenyl)-4,5,6,7-tetrahydroindazole | 0.60 g | ClC=1N(N=C2CCCCC12)C1=C(C=C(C=C1)O)F | C13H12ClFN2O
